US09340510B2
5-Fluoro-6-methoxy-1-methyl-1,2,3,4-tetrahydro-isoquinoline
To 500 mg (2.96 mmol) 2-(2-fluoro-3-methoxy-phenyl)-ethylamine and 622 μL (3.10 mmol) TEA in 7 mL DCM are added slowly 293 μL (3.83 mmol) acetic anhydride at 0° C. and stirring is continued for 2 h. After that time, the reaction mixture is quenched by the addition of water and extracted three times with DCM. The organic layers are combined, dried over MgSO4, filtered and the solvent is removed in vacuo.

reactant | 2-(2-fluoro-3-methoxy-phenyl)-ethylamine | 2.96 mmol, 500 mg | FC1=C(C=CC=C1OC)CCN | C9H12FNO
reactant | acetic anhydride | 3.83 mmol, 293 μL | C(C)(=O)OC(C)=O | C4H6O3
solvent | DCM | 7 mL | C(Cl)Cl | CH2Cl2
product | 5-Fluoro-6-methoxy-1-methyl-1,2,3,4-tetrahydro-isoquinoline | FC1=C2CCNC(C2=CC=C1OC)C | C11H14FNO
